US03937833
A solution of 20.0 g (0.04 mole) of bis(3-piperidinopropyl)-9-oxofluorene-2,7-dicarboxylate dihydrochloride in water to make a total volume of 240 ml is hydrogenated over 8.0 g of 10% palladium on charcoal for 2 days at 53°C on a Parr hydrogenation apparatus. The mixture is decanted from the catalyst, filtered through filter aid, treated with charcoal and refiltered. The solution is made basic to phenolphthalein with 20% sodium hydroxide and is extracted three times with CHCl3. The combined extracts are washed twice with water, dried over anhydrous sodium sulfate and filtered. The filtrate is made acidic to Congo Red with ethereal HCl. Most of the solvent is removed on a steam bath under vacuum, and the resulting solid is recrystallized from methanol-ether and from absolute ethanol and vacuum dried to give bis(3-piperidinopropyl)fluorene-2,7-dicarboxylate dihydrochloride.

reactant | bis(3-piperidinopropyl)-9-oxofluorene-2,7-dicarboxylate dihydrochloride | 0.04 mole, 20.0 g | Cl.Cl.N1(CCCCC1)CCCOC(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(=O)OCCCN1CCCCC1)=O
solvent | water | O | H2O
catalyst | palladium on charcoal | 8.0 g | [Pd] | Pd
product | bis(3-piperidinopropyl)fluorene-2,7-dicarboxylate dihydrochloride | Cl.Cl.N1(CCCCC1)CCCOC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(=O)OCCCN1CCCCC1 | InChI=1S/C31H40N2O4.2ClH/c34-30(36-19-7-17-32-13-3-1-4-14-32)24-9-11-28-26(21-24)23-27-22-25(10-12-29(27)28)31(35)37-20-8-18-33-15-5-2-6-16-33;;/h9-12,21-22H,1-8,13-20,23H2;2*1H
